US07371765B2
3-(1,1-Dioxothiomorpholino)propan-1-ol (283 mg, 1.46 mmol) was added to a suspension of 4-chloro-6-cyano-7-hydroxyquinoline (200 mg, 0.97 mmol) in methylene chloride (30 ml), followed by the addition of triphenylphosphine (512 mg, 1.95 mmol) and a solution of diethyl azodicarboxylate (310 μl, 1.95 mmol) in methylene chloride (700 μl) in portions. After stirring for 5 minutes at ambient temperature, the volatiles were removed under vacuum. The residue was purified by column chromatography eluting with a mixture of methanol/ethyl acetate/methylene chloride (5/50/45). After combining the fractions containing the expected product, the solvents were removed under vacuum and the residue was triturated with methanol, collected by filtration, washed with methanol and dried under vacuum to give 4-chloro-6-cyano-7-(3-(1,1-dioxothiomorpholino)propoxy)quinoline (321 mg, 87%).

reactant | 3-(1,1-Dioxothiomorpholino)propan-1-ol | 1.46 mmol, 283 mg | O=S1(CCN(CC1)CCCO)=O | C7H15NO3S
reactant | 4-chloro-6-cyano-7-hydroxyquinoline | 0.97 mmol, 200 mg | ClC1=CC=NC2=CC(=C(C=C12)C#N)O | C10H5ClN2O
reactant | triphenylphosphine | 1.95 mmol, 512 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.95 mmol, 310 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 700 μl | C(Cl)Cl | CH2Cl2
product | 4-chloro-6-cyano-7-(3-(1,1-dioxothiomorpholino)propoxy)quinoline | 321 mg, 87% | ClC1=CC=NC2=CC(=C(C=C12)C#N)OCCCN1CCS(CC1)(=O)=O | C17H18ClN3O3S
